US07678801B2
3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-N-[2-hydroxy-1-(hydroxymethyl)ethyl]-4-methylbenzamide
To the compound 3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzoic acid (40 mg, 0.074 mmol) in THF (2 mL) were added HBTU (30 mg, 0.079 mmol) and serinol (35 mg, 0.37 mmol). The mixture was stirred at rt overnight. Solvent was removed by rotovap. Separation by HPLC with TFA, followed by neutralization with SPE amine cartridge afforded the title compound (40 mg, 88%).

reactant | 3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzoic acid | 0.074 mmol, 40 mg | C(C)N(CCCNC=1N=C(C2=C(N1)N(C(C=C2)=O)C2=C(C=CC=C2F)F)C=2C=C(C(=O)O)C=CC2C)CC | C28H29F2N5O3
reactant | HBTU | 0.079 mmol, 30 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | serinol | 0.37 mmol, 35 mg | NC(CO)CO | C3H9NO2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-N-[2-hydroxy-1-(hydroxymethyl)ethyl]-4-methylbenzamide | 40 mg, 88% | C(C)N(CCCNC=1N=C(C2=C(N1)N(C(C=C2)=O)C2=C(C=CC=C2F)F)C=2C=C(C(=O)NC(CO)CO)C=CC2C)CC | C31H36F2N6O4
